US04521415
6-[3-bromo-4-(1,3-diazacyclopenten-2-ylamino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone
Using 6-(4-amino-3-bromophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone and methylthioisocyanate, the reaction was carried out in the same manner as described in Example 1(b) to the corresponding methylisothiuronium salt which was then reacted with ethylenediamine in the same manner as described in Example 1(c) to afford the above-identified compound. M.P. 265°-267° C. (with decomp.).

reactant | 6-(4-amino-3-bromophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | NC1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)Br | C11H12BrN3O
reactant | methylthioisocyanate | CSN=C=O | C2H3NOS
reactant | ethylenediamine | C(CN)N | C2H8N2
product | 6-[3-bromo-4-(1,3-diazacyclopenten-2-ylamino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | BrC=1C=C(C=CC1NC1=NCCN1)C=1C(CC(NN1)=O)C | C14H16BrN5O
